US07723336B2
(1a-1) To a solution of 2-hydroxy-3-nitropyridine (Aldrich, 3.0 mmol, 420 mg) in 1,4-dioxane (20 mL), were added 4-fluorophenyl boronic acid (Combi-block, 6.0 mmol, 840 mg), copper(II) acetate (Aldrich, 4.5 mmol, 815 mg) and pyridine (2 mL). The reaction was heated at 80° C. for 20 h. After cooling to room temperature, 30 mL of cold water was added. The solid formed was collected by filtration, washed with ammonium hydroxide and water, and dried under vacuum to give 1-(4-fluorophenyl)-3-nitropyridin-2(1H)-one (610 mg, 87% yield) as a solid.

reactant | 2-hydroxy-3-nitropyridine | 3.0 mmol, 420 mg | OC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O3
reactant | 4-fluorophenyl boronic acid | 6.0 mmol, 840 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 30 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | copper(II) acetate | 4.5 mmol, 815 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-fluorophenyl)-3-nitropyridin-2(1H)-one | 610 mg, 87% yield | FC1=CC=C(C=C1)N1C(C(=CC=C1)[N+](=O)[O-])=O | C11H7FN2O3
